US07514460B2
Intermediate 15: 4-Chloro-6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinazoline
The compound was synthesised according to GP 4 from 4-chloro-7-hydroxy-6-methoxy-quinazoline and 2-Morpholin-4-yl-ethanol. LC/ESI-MS: m/z=324 [M+H].

reactant | 4-chloro-7-hydroxy-6-methoxy-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 2-Morpholin-4-yl-ethanol | N1(CCOCC1)CCO | C6H13NO2
product | 4-Chloro-6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCOCC1 | C15H18ClN3O3
